US07772256B2
c) (5-Bromo-3-fluoro-pyridin-2-yl)-methyl-carbamic acid tert-butyl ester
To a solution of (5-bromo-3-fluoro-pyridin-2-yl)-carbamic acid tert-butyl ester (600 mg, 2.06 mmol) in dry DMF (20 mL), NaH (130 mg, 3.08 mmol) was added at 0° C. The solution was stirred vigorously for 10 minutes at 0° C. and MeI (180 μL, 2.88 mmol) was added. After 30 minutes, the reaction mixture was quenched with NH4Cl (saturated aqueous solution) and the product was extracted with EtOAc (3×40 mL). The combined organic extracts were washed with water, dried over MgSO4 and concentrated in vacuo. The residue was purified by Biotage using 3-15% EtOAc in hexane to afford title compound (470 mg) as a white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.23 (d, J=1.95 Hz, 1 H) 7.52 (dd, J=8.59, 1.95 Hz, 1 H) 3.22 (s, 3 H) 1.37 (s, 9 H)

reactant | (5-bromo-3-fluoro-pyridin-2-yl)-carbamic acid tert-butyl ester | 2.06 mmol, 600 mg | C(C)(C)(C)OC(NC1=NC=C(C=C1F)Br)=O | C10H12BrFN2O2
reactant | NaH | 3.08 mmol, 130 mg | [H-].[Na+]
reactant | MeI | 2.88 mmol, 180 μL | CI | CH3I
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (5-Bromo-3-fluoro-pyridin-2-yl)-methyl-carbamic acid tert-butyl ester | 470 mg | C(C)(C)(C)OC(N(C)C1=NC=C(C=C1F)Br)=O | C11H14BrFN2O2
